US07553862B2
Step 2: Rac-1-(3,4-dichloro-phenyl)-4-(4-fluorobenzylamino)-5-phenyl-1,5-dihydro-imidazol-2-one
To a stirred solution of 1-(3,4-dichloro-phenyl)-5-phenyl-1,3-dihydro-imidazol-2-one (1 equiv., 0.33 mmol, 100 mg) in chloroform (5 mL) was added dropwise Br2 (1.1 equiv., 0.36 mmol, 19 μL) in chloroform (2 mL) at 0° C. under nitrogen. After 10 min, 4-fluorobenzylamine (10 equiv., 3.28 mmol, 372 μL) was added in situ at 0° C. The reaction mixture was allowed to warm up to room temperature and heated at reflux overnight. After evaporation of solvent, the residue was purified by column chromatography (SiO2, n-heptane/ethyl acetate: 0-100%) affording the title compound as a white solid (32 mg, 23%). δH NMR (DMSO, 300 MHz) 8.83 (1H, br, s, NH), 7.91 (1H, d, J=2.4 Hz, H arom), 7.46-7.08 (11H, m, H arom), 6.16 (1H, s, C5H), 4.44 (2H, s, CH2Ph); m/z (EI) 431.0 (12%), 430.0 (74), 429.1 (26), 428.0 (100, M+H+).

reactant | 1-(3,4-dichloro-phenyl)-5-phenyl-1,3-dihydro-imidazol-2-one | 0.33 mmol, 100 mg, 1 equiv. | ClC=1C=C(C=CC1Cl)N1C(NC=C1C1=CC=CC=C1)=O | C15H10Cl2N2O
reactant | Br2 | 0.36 mmol, 19 μL, 1.1 equiv. | BrBr | Br2
reactant | 4-fluorobenzylamine | 3.28 mmol, 372 μL, 10 equiv. | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | Rac-1-(3,4-dichloro-phenyl)-4-(4-fluorobenzylamino)-5-phenyl-1,5-dihydro-imidazol-2-one | 32 mg, 23% | ClC=1C=C(C=CC1Cl)N1C(N=C(C1C1=CC=CC=C1)NCC1=CC=C(C=C1)F)=O | C22H16Cl2FN3O
